US04012524
(1-Hydroxy-2-benzyl-2methyl-6,7-dichloro-5-indanyloxy)acetic acid is prepared following subtantially the same procedure described in Example 4, Step F, using the following substances: 2-benzyl-2-methyl-6,7-dichloro-1,5indandiol (4.8 g., 0.015 mole); potassium carbonate (3.6 g.); ethyl bromoacetate (3.1 ml.); and dimethylformamide (35 ml.), and hydrolyzing the resultant ester with aqueous sodium hydroxide in accordance with Example 4, Step F, gives (1-hydroxy-2-benzyl-2-methyl-6,7-dichloro-5-indanyloxy)acetic acid.

reactant | 2-benzyl-2-methyl-6,7-dichloro-1,5indandiol | 0.015 mole, 4.8 g | C(C1=CC=CC=C1)C1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)O)C | C17H16Cl2O2
reactant | potassium carbonate | 3.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 3.1 ml | BrCC(=O)OCC | C4H7BrO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | (1-hydroxy-2-benzyl-2-methyl-6,7-dichloro-5-indanyloxy)acetic acid | OC1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C)CC1=CC=CC=C1 | C19H18Cl2O4
